US09446034B2
A solution of 3-[(2,5-dichloro-4-pyridinyl)amino]benzoic acid (500 mg, 1.766 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide (EDC) (339 mg, 1.766 mmol) and 1-hydroxybenzotriazole (HOBT) (270 mg, 1.766 mmol) in N,N-dimethylformamide (3532 μl) was stirred at room temperature for 30 min. To this solution O-methylhydroxylamine(aminoxy)methane (148 mg, 1.766 mmol) was then added and stirred for another 10 min. The reaction mixture was cooled using an ice water bath. Then diisopropylethylamine (617 μl, 3.53 mmol) was added. After the addition was finished, the reaction mixture was stirred at room temperature overnight. The reaction mixture was followed by HPLC and LCMS. The final crude material was worked up by addition of saturated aqueous NaHCO3 and CH2Cl2. Organic phase was washed with brine then dried over MgSO4. The solution was filtered and solvent was removed by evaporation. The oil like crude material was loaded on silica column and eluted with MeOH in CH2Cl2 with NH4OH 0.1% to give the target compound 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide (320 mg, 1.025 mmol, 58.0% yield) as a yellow solid; MS; M(C13H11Cl2N3O2)=312.15, (M+H)+=312, 313.9; 1H NMR (400 MHz, CHLOROFORM-d) ppm 9.66 (br. s., 1 H) 9.60 (br. s., 1 H) 8.20 (s, 1 H) 7.49-7.61 (m, 3 H) 7.24 (s, 1 H) 7.09-7.16 (m, 1 H) 3.90 (s, 3 H).

reactant | 3-[(2,5-dichloro-4-pyridinyl)amino]benzoic acid | 1.766 mmol, 500 mg | ClC1=NC=C(C(=C1)NC=1C=C(C(=O)O)C=CC1)Cl | C12H8Cl2N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide | 1.766 mmol, 339 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-hydroxybenzotriazole | 1.766 mmol, 270 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 3.53 mmol, 617 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | N,N-dimethylformamide | 3532 μl | CN(C=O)C | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-[(2,5-dichloro-4-pyridinyl)amino]-N-(methyloxy)benzamide | 1.025 mmol, 320 mg, 58.0% yield | ClC1=NC=C(C(=C1)NC1=C(C(=O)NOC)C=CC=C1)Cl | C13H11Cl2N3O2
